US08133907B2
(R)-2-Dibenzylamino-3-(2-fluoro-phenyl)-propan-1-ol
To a solution of (R)-2-Dibenzylamino-3-(2-fluoro-phenyl)-propionic acid methyl ester (4.6 g, 12 mmol) in 100 mL of THF at −10° C. is slowly added a 1M solution of lithium aluminum hydride in THF (19 mL, 18 mmol). After 10 minutes the reaction is quenched by slow addition of 1.2 mL of water and 1.2 mL of 1N sodium hydroxide. The mixture is then filtered through a pad of celite and the filtrate is concentrated to give the title compound.

reactant | (R)-2-Dibenzylamino-3-(2-fluoro-phenyl)-propionic acid methyl ester | 12 mmol, 4.6 g | COC([C@@H](CC1=C(C=CC=C1)F)N(CC1=CC=CC=C1)CC1=CC=CC=C1)=O | C24H24FNO2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 18 mmol, 19 mL | C1CCOC1 | C4H8O
product | (R)-2-Dibenzylamino-3-(2-fluoro-phenyl)-propan-1-ol | C(C1=CC=CC=C1)N([C@@H](CO)CC1=C(C=CC=C1)F)CC1=CC=CC=C1 | C23H24FNO
